US05607939
To 200 ml of a methylene chloride solution containing 3.36 g of 3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one was added 2.6 g of potassium carbonate. Then, 50 ml of a methylene chloride solution containing 3.4 ml of trifluoroacetic anhydride was added dropwise at 0° C. and the mixture was stirred for 3 hours. The reaction mixture was diluted with water and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous magnesium sulfate and filtered and the solvent was then distilled off. The residue was purified by silica gel column chromatography using ethyl acetate/hexane (1:2) as the eluent and the eluate containing the desired compound was distilled under reduced pressure. The solid residue was recrystallized from ethyl acetate-hexane to provide 4.86 g of 1'-trifluoroacetyl-3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one as colorless needles.

reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | 3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one | 3.36 g | N1C2(CCCC1)C(C1=CC=CC=C1CC2)=O | C14H17NO
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic anhydride | 3.4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | O | H2O
product | 1'-trifluoroacetyl-3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one | 4.86 g | FC(C(=O)N1C2(CCCC1)C(C1=CC=CC=C1CC2)=O)(F)F | C16H16F3NO2
